US07410966B2
1-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]-3-morpholin-4-ylpropan-2-ol
The title compound was prepared from 6-bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine and morpholine.

reactant | 6-bromo-2-[4-(oxiran-2-ylmethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCC2OC2 | C15H12BrN3O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-[4-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]-3-morpholin-4-ylpropan-2-ol | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(OCC(CN1CCOCC1)O)C=C2 | C19H21BrN4O3
